US07462630B2
Synthesis of 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxo-ethanamine hydrochloride
1.40 g (3.25 mmol) of t-butyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate was dissolved in 20 ml of 1,4-dioxane. 12 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution, and they were stirred overnight. After the neutralization with 4 N aqueous sodium hydroxide solution, the solvent was evaporated under reduced pressure. Saturated aqueous sodium chloride solution was added to the reaction mixture. After the extraction with ethyl acetate 3 times, the extract was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. 10 ml of a solution of ethyl acetate:hexane (1:2) and then 2 ml of 4 N hydrochloric acid/1,4-dioxane solution were added to the residue. The resultant precipitates were taken by the filtration, washed with a solution of ethyl acetate:hexane (1:2) and air-dried. After further drying under reduced pressure, the title compound was obtained.

reactant | t-butyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate | 3.25 mmol, 1.40 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(OC(C)(C)C)=O)=O | C27H30N2O3
reactant | hydrochloric acid 1,4-dioxane | 4 N, 12 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxo-ethanamine hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CN)=O | InChI=1S/C22H22N2O.ClH/c23-15-21(25)24-13-11-18(12-14-24)22-19-7-3-1-5-16(19)9-10-17-6-2-4-8-20(17)22;/h1-10H,11-15,23H2;1H
